US05284837
A solution of 2-amino-6-chloro-9-[(2-ethoxy-2-oxo-1,2-oxaphosphorinan-5-yl)methyl]purine (VSC 655; 102 mg, 0,295 mmol) in ethanol (2 ml), water (2 ml), and 2M aqueous sodium hydroxide (1.0 ml, 2 mmol) was kept at 80° C. for 3 days, neutralized by addition of weakly acidic Amberlite cation exchange resin, filtered, and evaporated to dryness to give disodium 3-(guanin-9-ylmethyl)-4-hydroxybutanephosphonate.

reactant | 2-amino-6-chloro-9-[(2-ethoxy-2-oxo-1,2-oxaphosphorinan-5-yl)methyl]purine | 0,295 mmol, 102 mg | NC1=NC(=C2N=CN(C2=N1)CC1CCP(OC1)(=O)OCC)Cl | C12H17ClN5O3P
reactant | sodium hydroxide | 2 mmol, 2M, 1.0 ml | [OH-].[Na+]
reactant | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | disodium 3-(guanin-9-ylmethyl)-4-hydroxybutanephosphonate | N1C(N)=NC=2N(C=NC2C1=O)CC(CCP([O-])(=O)[O-])CO.[Na+].[Na+] | InChI=1S/C10H16N5O5P.2Na/c11-10-13-8-7(9(17)14-10)12-5-15(8)3-6(4-16)1-2-21(18,19)20;;/h5-6,16H,1-4H2,(H2,18,19,20)(H3,11,13,14,17);;/q;2*+1/p-2
